US05480879
A. 7-(2-tert-Butoxycarbonyl-2,8-diazabicyclo[4.3.0]non-8-yl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
7.8 g (20 mmol) of 1-cyclopropyl-7-(2,8-diazabicyclo[4.3.0]non-8-yl)-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid are dissolved in a mixture consisting of 60 ml of dioxane/water (2:1) and 20 ml of 1N sodium hydroxide solution and, while cooling with ice and stirring, 5.24 g (24 mmol) of di-tert-butyl pyrocarbonate are added. The mixture is subsequently stirred at room temperature for 1 hour and allowed to stand overnight. The precipitate which has separated out is filtered off with suction, washed with 250 ml of water, and dried at 50° C. overnight in an air-circulation drying oven.

reactant | 1-cyclopropyl-7-(2,8-diazabicyclo[4.3.0]non-8-yl)-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 20 mmol, 7.8 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC2CCCNC2C1)F)=O)C(=O)O | C20H21F2N3O3
reactant | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
reactant | di-tert-butyl pyrocarbonate | 24 mmol, 5.24 g | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane water | 60 ml | O1CCOCC1.O
product | 7-(2-tert-Butoxycarbonyl-2,8-diazabicyclo[4.3.0]non-8-yl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | C(C)(C)(C)OC(=O)N1C2CN(CC2CCC1)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F | C25H29F2N3O5
